US08835429B2
A microwave vial was charged with 1-(6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-2-chloropyrimidin-4-yl)-N,N-dimethylmethanamine (0.400 g, 1.42 mmol) and sodium carbonate (2M in water, 2.12 mL, 4.24 mmol). DME (7 mL) was then added to give a yellow biphasic solution. The solution was degassed with nitrogen for 10 minutes, and tetrakis(triphenylphosphine)palladium(0) (0.098 g, 0.085 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.372 g, 1.697 mmol) were added. The vial was sealed and heated to 120° C. for 40 minutes under microwave irradiation. LCMS indicated that the reaction had not gone to completion. Additional tetrakis(triphenylphosphine)palladium(0) (0.049 g, 0.043 mmol) was added and the reaction was heated to 120° C. for an additional 80 minutes under microwave irradiation. The vessel was then cooled to room temperature and the reaction mixture was filtered through Celite™. The filter cake was washed with ethyl acetate and the filtrate was then concentrated under reduced pressure to provide a brown oil. The crude product was added to a silica gel column and was eluted with 0-10% methanol in methylene chloride to provide 4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)aniline (0.365 g, 76%) as a light orange solid. HRMS; [M+H]+ Obs'd=340.2133, [M+H]+ Calc'd=340.2131

reactant | 1-(6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-2-chloropyrimidin-4-yl)-N,N-dimethylmethanamine | 1.42 mmol, 0.400 g | C12COCC(CC1)N2C2=CC(=NC(=N2)Cl)CN(C)C | C13H19ClN4O
reactant | sodium carbonate | 4.24 mmol, 2M, 2.12 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.697 mmol, 0.372 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.085 mmol, 0.098 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.043 mmol, 0.049 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 7 mL | COCCOC | C4H10O2
product | 4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)aniline | 0.365 g, 76% | C12COCC(CC1)N2C2=NC(=NC(=C2)CN(C)C)C2=CC=C(N)C=C2 | C19H25N5O
